US08106221B2
Step 3a. 2-(4-Chloro-2-iodophenyl)-4,4-dimethyl-4,5-dihydrooxazole
To a solution of 4-chloro-2-iodobenzoic acid (10 g, 35.4 mmol) in dry dichloromethane (100 mL) was added DMF (4 drops) followed by addition of oxalyl chloride (4.65 mL, 53.1 mmol) drop wise at room temperature. The reaction mixture was stirred for 4 h then the solvent and excess reagents were evaporated by rotovap. The residue was dissolved in dry dichloromethane (80 mL), added a solution of 2-amino-2-methyl-1-propanol (7.9 g, 8.5 mL, 88.5 mmol) in dichloromethane (20 mL), and stirred at room temperature over night. The solvent was removed, the resulting residue was dissolved in ethyl acetate (200 mL), washed with water (100 mL), 1N HCl (3×100 mL), and brine (100 mL), dried over sodium sulfate, filtered and concentrated. The residue was dissolved in dry toluene (200 mL) and cooled to 0° C. Thionyl chloride (7.75 mL, 106.2 mmol) was added drop wise, stirred at 0° C. for 30 min, then room temperature for 3 h. The reaction mixture was diluted with ethyl acetate (400 mL) and poured into a stirred solution of saturated aqueous NaHCO3 (400 mL) portion wise (vigorous gas evolution). The two layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (120 g column, 0% ethyl acetate in hexanes to 60% ethyl acetate in hexanes) to give product (10.5 g, 88%). NMR (CDCl3) δ 8.04 (d, J=2.0 Hz, 1H), 7.67 (brs, 1H), 7.39 (dd, J=9.7, 1.5 Hz, 1H), 4.25 (s, 2H), 1.48 (s, 6H); MS EI m/z 336 (M+H)+.

reactant | 4-chloro-2-iodobenzoic acid | 35.4 mmol, 10 g | ClC1=CC(=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | oxalyl chloride | 53.1 mmol, 4.65 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-2-methyl-1-propanol | 88.5 mmol, 8.5 mL, 7.9 g | NC(CO)(C)C | C4H11NO
reactant | Thionyl chloride | 106.2 mmol, 7.75 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | 400 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Chloro-2-iodophenyl)-4,4-dimethyl-4,5-dihydrooxazole | 10.5 g, 88% | ClC1=CC(=C(C=C1)C=1OCC(N1)(C)C)I | C11H11ClINO
